US07135475B2
A solution of 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid methyl ester (4.7 g, 0.12 mol) in tetrahydrofuran was added dropwise to a suspension of lithium aluminum hydride (724 mg, 0.12 mol) in tetrahydrofuran (63 mL) cooled to 0° C. The reaction mixture was allowed to gradually warm to 25° C. The reaction was then stirred at 25° C. for 48 h. At this time, the reaction was cooled to 0° C. and diluted with ethyl acetate (140 mL). The reaction mixture was then consecutively treated with water (0.925 mL), a 15% aqueous sodium hydroxide solution (0.925 mL), and water (2.8 mL). This mixture was stirred at 0° C. for 15 min. At this time, magnesium sulfate was added. The resulting mixture was filtered to remove the solids. The solids were washed with tetrahydrofuran and dichloromethane. The filtrate was concentrated in vacuo to afford (1-trityl-1H-[1,2,4]triazol-3-yl)-methanol (2.2 g, 51%) as a white solid: 1H NMR (DMSO-d6, 300 MHz) δ 8.02 (s, 1H), 7.37 (m, 9H), 7.04 (m, 6H), 5.30 (broad s, 1H), 4.41 (s, 2H).

reactant | 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid methyl ester | 0.12 mol, 4.7 g | COC(=O)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19N3O2
reactant | lithium aluminum hydride | 0.12 mol, 724 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 0.925 mL | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 63 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 140 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 2.8 mL | O | H2O
solvent | water | 0.925 mL | O | H2O
product | (1-trityl-1H-[1,2,4]triazol-3-yl)-methanol | 2.2 g, 51% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=C1)CO | C22H19N3O
